US05837704
5,11-Dihydro-5-methyl-11-n-propyl-2-(4-pyrazolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound (mp 206°-207° C.) was prepared from 5,11-dihydro-5-methyl-11-n-propyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 4-stannyl)pyrazole in a manner analogous to that described in Example 1.

reactant | 5,11-dihydro-5-methyl-11-n-propyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | CN1C2=C(N(C3=C(C1=O)C=CC=N3)CCC)N=C(C=C2)OS(=O)(=O)C(F)(F)F | C16H15F3N4O4S
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | 5,11-Dihydro-5-methyl-11-n-propyl-2-(4-pyrazolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | CN1C2=C(N(C3=C(C1=O)C=CC=N3)CCC)N=C(C=C2)C=2C=NNC2 | C18H18N6O
